US07282588B2
Preparation of N-[3-(methyloxy)phenyl]-2-[3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetamide
To a solution of [3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid (0.166 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (0.249 mmol), 4-dimethylaminopyridine (0.249 mmol) and N,N-dimethylformamide (3.2 mL) at room temperature was added m-anisidine (0.415 mmol). The reaction mixture was stirred overnight at room temperature, concentrated in vacuo, taken up in ethyl acetate (10 mL) and washed with saturated aqueous sodium bicarbonate (10 mL). The organic layer was dried over sodium sulfate and concentrated in vacuo. Purification by Gilson reverse phase HPLC afforded the title compound as a white solid (26%). ESMS [M+H]+: 558.4

reactant | [3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetic acid | 0.166 mmol | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC(=O)O | C25H20N6O3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.249 mmol | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | m-anisidine | 0.415 mmol | COC1=CC(=CC=C1)N | C7H9NO
catalyst | 4-dimethylaminopyridine | 0.249 mmol | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 3.2 mL | CN(C=O)C | C3H7NO
product | N-[3-(methyloxy)phenyl]-2-[3-(4-{[(phenylamino)carbonyl]amino}phenyl)-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-1-yl]acetamide | 26% | COC=1C=C(C=CC1)NC(CN1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(C=C2)NC(=O)NC2=CC=CC=C2)=O | C32H27N7O3
